US05017212
2-Amino-4-methoxy-6-methyl -1,3,5-triazine (28.0 g) (see Journal of Organic Chemistry 28, 1816(1963), mp. 258° C.) is suspended in 100 ml of acetonitrile, to which 58.6 g of bis-(trimethylsilyl)acetamide is added and refluxed for 10 hours. After cooling, insoluble product is filtered off and the filtrate is concentrated. The residue is distilled under reduced pressure to give 29.0 g of 2-(trimethylsilyl) amino-4-methoxy-6-methyl-1,3,5-triazine. bp. 110°-111° C./3 mmHg.

reactant | 2-Amino-4-methoxy-6-methyl -1,3,5-triazine | 28.0 g | NC1=NC(=NC(=N1)OC)C | C5H8N4O
reactant | bis-(trimethylsilyl)acetamide | 58.6 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-(trimethylsilyl) amino-4-methoxy-6-methyl-1,3,5-triazine | 29.0 g | C[Si](C)(C)NC1=NC(=NC(=N1)OC)C | C8H16N4OSi
